US05077304
30.0 g of 6-chloro-2,4-diisopropyl-3-nitropyridine are dissolved in 450 ml of tetrahydrofuran and, after the addition of 30.0 g of Raney nickel (suspended in ethanol), hydrogenated under a hydrogen pressure of 20 bar at from +30° C. to +35° C. The reaction mixture is filtered over diatomaceous earth and the filtrate is concentrated. The residue is purified by column chromatography on silica gel (eluant: ethyl acetate/hexane 3). 6-Chloro-2,4-diisopropyl-3-aminopyridine is obtained in the form of a clear crystalline powder, m.p. 53°-56° C.

reactant | 6-chloro-2,4-diisopropyl-3-nitropyridine | 30.0 g | ClC1=CC(=C(C(=N1)C(C)C)[N+](=O)[O-])C(C)C | C11H15ClN2O2
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | 30.0 g | [Ni] | Ni
product | 6-Chloro-2,4-diisopropyl-3-aminopyridine | ClC1=CC(=C(C(=N1)C(C)C)N)C(C)C | C11H17ClN2
